US09226500B2
Preparation of (R)-tert-Butyl 1-thioxo-1-(2,2,2-trifluoroethylamino)propan-2-ylcarbamate
To a stirred solution of (R)-tert-butyl 1-oxo-1-(2,2,2-trifluoroethylamino)propan-2-ylcarbamate (100 mg, 0.37 mmol) in CH2Cl2 (10 mL) was added P2S5 (24 mg, 0.11 mmol) and hexamethyldisiloxane (HMDO) (0.13 mL, 0.59 mmol) at room temperature and the mixture was refluxed for 3 h. The reaction mixture was cooled to room temperature and another portion of P2S5 (24 mg, 0.11 mmol) was added and the resulting mixture was refluxed for 18 h. The volatiles were evaporated, pentane (25 mL) was added to the residue and stirred for 10-15 min. The pentane layer was decanted, concentrated in vacuo and the residue was passed through a short silica pad eluting with pentane followed by CH2Cl2 to give the title compound as colorless liquid (30 mg, 30%): 1H NMR (400 MHz, DMSO-d6) δ 10.27 (t, J=5.4 Hz, 1H), 7.00 (d, J=6.8 Hz, 1H), 4.57-4.35 (m, 3H), 1.32 (s, 9H), 1.25 (d, J=7.6 Hz, 3H); ESIMS m/z 286.2 ([M+H]+); IR (thin film) 3233, 1683, 1257 cm−1.

reactant | (R)-tert-butyl 1-oxo-1-(2,2,2-trifluoroethylamino)propan-2-ylcarbamate | 0.37 mmol, 100 mg | O=C([C@@H](C)NC(OC(C)(C)C)=O)NCC(F)(F)F | C10H17F3N2O3
reactant | P2S5 | 0.11 mmol, 24 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | hexamethyldisiloxane | 0.59 mmol, 0.13 mL | C[Si](O[Si](C)(C)C)(C)C | C6H18OSi2
reactant | P2S5 | 0.11 mmol, 24 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-Butyl 1-thioxo-1-(2,2,2-trifluoroethylamino)propan-2-ylcarbamate | 30 mg, 30% | S=C([C@@H](C)NC(OC(C)(C)C)=O)NCC(F)(F)F | C10H17F3N2O2S
